US09387200B2
a) 2-[Amino-(4-chloro-phenyl)-methylene]-3-oxo-butyric acid ethyl ester
The title compound was synthesized in analogy to Example 1 from 4-chlorobenzonitrile and ethyl acetoacetate: MS (m/z) 268.2 (M+1).

reactant | 4-chlorobenzonitrile | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
product | 2-[Amino-(4-chloro-phenyl)-methylene]-3-oxo-butyric acid ethyl ester | C(C)OC(C(C(C)=O)=C(C1=CC=C(C=C1)Cl)N)=O | C13H14ClNO3
